US04479955
A solution of 2.84 g of ethyl 4-chloro-1,6-naphthyridine-3-carboxylate and 1.35 g of 3-hydrazinopyridine in 36 ml of methanol is stirred at room temperature for 2.5 hours, then refluxed for 4.5 hours, then cooled in an ice bath and filtered. Collected solid is washed with methanol, then with ether to yield 2-(3-pyridyl)pyrazolo[4,3-c][1,6]naphthyridin-3-(5H)-one hydrochloride, m.p. 302°-305°.

reactant | ethyl 4-chloro-1,6-naphthyridine-3-carboxylate | 2.84 g | ClC1=C(C=NC2=CC=NC=C12)C(=O)OCC | C11H9ClN2O2
reactant | 3-hydrazinopyridine | 1.35 g | N(N)C=1C=NC=CC1 | C5H7N3
solvent | methanol | 36 ml | CO | CH4O
product | 2-(3-pyridyl)pyrazolo[4,3-c][1,6]naphthyridin-3-(5H)-one hydrochloride | Cl.N1=CC(=CC=C1)N1N=C2C(=CNC=3C=CN=CC23)C1=O | InChI=1S/C14H9N5O.ClH/c20-14-11-8-17-12-3-5-16-7-10(12)13(11)18-19(14)9-2-1-4-15-6-9;/h1-8,17H;1H
